US05118686
4-Chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine
A stirred solution of 4,6-dichloro-2-(2-propoxyphenyl)pyrimidine (16.68 g) in concentrated hydrochloric acid (40 ml), n-butanol (80 ml) and water (40 ml) was heated under reflux for 3 hours. The cooled reaction mixture was evaporated under reduced pressure to yield a residue which was washed with water and diethyl ether and recrystallised from isopropanol to yield the title compound, 8.46 g, m.p. 115.5°-11 6.5° C. A sample (1 g) of this material was recrystallised twice from isopropanol to yield the pure title compound, 0.42 g, m.p. 118°-118.5° C.

reactant | 4,6-dichloro-2-(2-propoxyphenyl)pyrimidine | 16.68 g | ClC1=NC(=NC(=C1)Cl)C1=C(C=CC=C1)OCCC | C13H12Cl2N2O
reactant | n-butanol | 80 ml | C(CCC)O | C4H10O
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 4-Chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine | ClC1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C13H13ClN2O2
